US09084794B2
2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(3,4′-difluoro-[1,1′-biphenyl]-4-yl)acetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.341 mmol) in dry 1,4-dioxane (1.5 mL) was treated with (4-fluorophenyl)boronic acid (0.375 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.017 mmol) and 2M aq potassium carbonate (1.022 mmol). The solution was degassed with a stream of nitrogen for three minutes, at which point the reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (50 mL) and extracted three times with ethyl acetate. The combined organic layers were treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by reverse phase HPLC (20-65% acetonitrile/water with 0.1% NH4OH) and by reverse phase HPLC (10-50% acetonitrile with 0.1% TFA/water with 0.1% TFA). Fractions containing the desired product were combined and the pH of the resulting mixture was adjusted to ˜10 with 30% w/v aq ammonium hydroxide. This mixture was concentrated to a minimal volume in vacuo and was then extracted with dichloromethane three times. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Lyophilization of the product from water (w/25% acetonitrile) afforded the title compound as a white solid (100 mg, 61% yield). MS(ES)+m/e 456.1 [M+H]+.

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.341 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | (4-fluorophenyl)boronic acid | 0.375 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 1.022 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(3,4′-difluoro-[1,1′-biphenyl]-4-yl)acetamide | 100 mg, 61% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C(C=C2)F)F)=O | C25H27F2N3O3
